US09388195B2
B) Production of 5-ethyl-N,N-dimethyl-1H-pyrazole-1-sulfonamide
1.6M n-Butyllithium/hexane solution (99 mL) was added dropwise to a stirring solution (200 mL) of N,N-dimethyl-1H-pyrazole-1-sulfonamide (25.3 g) in tetrahydrofuran at −78° C. After 30 min from the completion of the dropwise addition, iodoethane (12.8 mL) was added dropwise. The mixture was stirred at the same temperature for 30 min, and the reaction system was allowed to warm to room temperature. After 1 hr, tetrahydrofuran (200 mL) was added to facilitate stirring of the reaction system, and the mixture was further stirred for 2 hr. The reaction system was poured into saturated aqueous sodium hydrogen carbonate (600 mL), and the mixture was extracted with ethyl acetate (400 mL×2), and dried over anhydrous magnesium sulfate. Insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (ethyl acetate/hexane), and the object fraction was concentrated under reduced pressure to give the title compound (19.8 g) as a colorless oil.

reactant | n-Butyllithium hexane | 1.6M, 99 mL | C(CCC)[Li].CCCCCC
reactant | N,N-dimethyl-1H-pyrazole-1-sulfonamide | 200 mL, 25.3 g | CN(S(=O)(=O)N1N=CC=C1)C | C5H9N3O2S
reactant | iodoethane | 12.8 mL | ICC | C2H5I
reactant | sodium hydrogen carbonate | 600 mL | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 5-ethyl-N,N-dimethyl-1H-pyrazole-1-sulfonamide | 19.8 g | C(C)C1=CC=NN1S(=O)(=O)N(C)C | C7H13N3O2S
